US05432169
3β-(3-Guanidinopropoxy)-17β-(3-furyl)-5β-androstan-14β-ol nitrate (I-am)
To a solution of 0.10 g of 3β-(3-aminopropoxy)-17β-(3-furyl)-5β-androstan-14β-ol (I-ab) in 7 ml of absolute ethanol 0.060 g of 3,5-dimethyl-1-pyrazolylformamidinium nitrate were added and the mixture was kept at reflux temperature for 24 hrs; the ethanol was concentrated under reduced pressure and 0.090 g of the title compound (I-am) crystallized as a white solid.

reactant | 3β-(3-aminopropoxy)-17β-(3-furyl)-5β-androstan-14β-ol | 0.10 g | NCCCO[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C1=COC=C1)O | C26H41NO3
reactant | 3,5-dimethyl-1-pyrazolylformamidinium nitrate | [N+](=O)([O-])[O-].CC1(N=NC(=C1)C)C(=[NH2+])N
solvent | ethanol | 7 ml, 0.060 g | C(C)O | C2H6O
product | 3β-(3-Guanidinopropoxy)-17β-(3-furyl)-5β-androstan-14β-ol nitrate | [N+](=O)([O-])O[C@]12CC[C@@H]([C@@]1(C)CC[C@@H]1[C@]3(CC[C@@H](C[C@H]3CC[C@@H]21)OCCCNC(=N)N)C)C2=COC=C2 | C27H42N4O5
